US07119200B2
A suspension of 4-(5-oxazolyl)benzamide (500 mg, 2.657 mmol) in 10 mL of dry THF was cooled to 0° C. and 10 mL of 1 M BH3.THF (10.00 mmol) was added. The contents were refluxed overnight and the excess borane was destroyed by dropwise addition of methanol. The solvent was evaporated and the residue was treated with methanolic HCl to decompose the amine-borane complex. After evaporation of the methanol, the residue was taken in water, basified to pH 10 and the product was extracted in to DCM. The DCM layer was dried (K2CO3) and the solvent was removed to provide 150 mg (32%) of 4-(5-oxazolyl)benzylamine: 1H NMR (CDCl3) δ 7.90 (s, 1H), 7.60 (d, 2H), 7.40 (d, 2H), 7.30 (s, 1H), 3.90 (s, 2H).

reactant | 4-(5-oxazolyl)benzamide | 2.657 mmol, 500 mg | O1C=NC=C1C1=CC=C(C(=O)N)C=C1 | C10H8N2O2
reactant | BH3.THF | 10.00 mmol, 1 M, 10 mL | B.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(5-oxazolyl)benzylamine | 150 mg, 32% | O1C=NC=C1C1=CC=C(CN)C=C1 | C10H10N2O
